US07842688B2
c) 1-Ethoxy-2-(3-methoxypropoxy)-4-methylbenzene
Analogously to Method F, 5.05 g of 2-ethoxy-5-methylphenol and 4.03 g of 1-chloro-3-methoxypropane are reacted. The title compound is obtained as a slightly orange oil. Rf=0.32 (1:4 EtOAc-heptane); Rt=4.60

reactant | 2-ethoxy-5-methylphenol | 5.05 g | C(C)OC1=C(C=C(C=C1)C)O | C9H12O2
reactant | 1-chloro-3-methoxypropane | 4.03 g | ClCCCOC | C4H9ClO
product | 1-Ethoxy-2-(3-methoxypropoxy)-4-methylbenzene | C(C)OC1=C(C=C(C=C1)C)OCCCOC | C13H20O3
